US07592456B2
n-Butyl lithium solution (2.5M in hexanes, 0.84 mL, 2.10 mmol) was added to 1-(dimethylaminomethyl)imidazole (prepared by the method detailed in JOC 1988, 53, 5685-5689; 0.25 g, 2.0 mmol) in tetrahydrofuran (8 mL) at ≦−65° C. with stirring under nitrogen. After 1 hour at this temperature a solution of 2-iodobenzaldehyde (0.50 g, 2.09 mmol) in tetrahydrofuran (1 mL) was added and the mixture allowed to return to ambient temperature overnight. Dilute hydrochloric acid (2N, 10 mL) was then added and organic solvent removed in vacuo before neutralising with sodium bicarbonate. Dichloromethane (3×30 mL) extracts were washed with saturated brine then dried (MgSO4), filtered and concentrated in vacuo to give a yellow oil. Purification by flash column chromatography eluting with 50% ethyl acetate/isohexane gave a white solid of 1H-imidazol-2-yl(2-iodophenyl)methanol (0.22 g, 38%). 1H NMR (500 MHz, d6-DMSO) δ 11.94 (1H, s), 7.80 (1H, dd, J=1.0, 7.8 Hz), 7.53 (1H, dd, J=1.7, 7.8 Hz), 7.41-7.37 (1H, m), 7.04-7.00 (2H, m), 6.74 (1H, s), 6.20 (1H, d, J=4.7 Hz), 5.83 (1H, d, J=4.7 Hz); m/z (ES+) 301 [MH+].

reactant | n-Butyl lithium | 2.10 mmol, 2.5M, 0.84 mL | C(CCC)[Li]
reactant | 1-(dimethylaminomethyl)imidazole | CN(C)CN1C=NC=C1 | C6H11N3
reactant | 2-iodobenzaldehyde | 2.09 mmol, 0.50 g | IC1=C(C=O)C=CC=C1 | C7H5IO
reactant | hydrochloric acid | 2N, 10 mL | Cl | ClH
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 1H-imidazol-2-yl(2-iodophenyl)methanol | 0.22 g, 38% | N1C(=NC=C1)C(O)C1=C(C=CC=C1)I | C10H9IN2O
